US07432289B2
N-(4′-{[(Cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)-2-furamide was prepared from 5′-amino-N-(cyclopropylmethyl)-2′-methyl-1,1′-biphenyl-4-carboxamide and 2-furoic acid using method D. NMR; δH [2H6]—DMSO 10.18,(1H, s), 8.62,(1H, t), 7.93-7.91,(3H, m), 7.69,(1H, dd), 7.65,(1H, d), 7.44,(2H, d), 7.31,(1H, d), 7.27,(1H, d), 6.69,(1H, m), 3.16,(2H, m), 2.19,(3H, s), 1.04,(1H, m), 0.43,(2H, m), 0.24,(2H, m). LCMS: retention time 3.25 min, MH+375.

reactant | 5′-amino-N-(cyclopropylmethyl)-2′-methyl-1,1′-biphenyl-4-carboxamide | NC=1C=CC(=C(C1)C1=CC=C(C=C1)C(=O)NCC1CC1)C | C18H20N2O
reactant | 2-furoic acid | O1C(=CC=C1)C(=O)O | C5H4O3
product | N-(4′-{[(Cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)-2-furamide | C1(CC1)CNC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1C)NC(=O)C=1OC=CC1 | C23H22N2O3
